US05136093
In a two liter reaction flask, fitted with a stirrer, thermometer, reflux condenser, heating mantle and a feed funnel, 205 grams of deionized water was charged. 205 grams (1 mole) of d,l- panthenol was charged into the water and stirred until dissolved. In a separate stirred one liter vessel, 852 grams (1 mole) of 50% aqueous QUAB 426 (3-Chloro-2-hydroxypropyl stearyl dimethylammonium chloride) was reacted with approximately 80 grams (1 mole) of 50% aqueous sodium hydroxide solution, to form a solution of QUAB 393 (2,3-Epoxypropyl stearyl dimethyl ammonium chloride), to a pH of ~ 9.5. The batch was heated to 50°-60° C., and the QUAB 393 solution was added to the panthenol solution through the feed funnel. The pH of the reaction mixture was checked, and adjusted to ~ 9.5 with a small additional amount of 50% sodium hydroxide solution, as required. The batch was then agitated at 50°-60° C. for a four hour period to assure complete reaction. The pH of the batch was then adjusted to 6.5-8.0 with a small amount of lactic acid. The resultant product was a clear yellow solution, containing approximately 50% solids, of which approximately 43% was stearyl dimethyl quaternized panthenol. An in vitro efficacy test of this material versus a 50% panthenol solution was tested for uptake on human hair swatches and showed an approximate 27% greater uptake than the unquaternized panthenol. Adjusting the results for concentration of active material, the stearyl dimethyl quaternized panthenol showed an approximate 31% greater uptake than the unquaternized panthenol.

reactant | d,l- panthenol | 1 mole, 205 grams | OCCCNC(C(O)C(C)(C)CO)=O | C9H19NO4
reactant | 3-Chloro-2-hydroxypropyl stearyl dimethylammonium chloride | [Cl-].ClC(CC[N+](C)(C)CC(C)O)CCCCCCCCCCCCCCC
reactant | sodium hydroxide | 1 mole, approximately 80 grams | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 205 grams | O | H2O
product | 2,3-Epoxypropyl stearyl dimethyl ammonium chloride | [Cl-].O1C(C[N+](C)(C)CCCCCCCCCCCCCCCCCC)C1 | InChI=1S/C23H48NO.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-24(2,3)21-23-22-25-23;/h23H,4-22H2,1-3H3;1H/q+1;/p-1
